US07423150B2
2-(2-Hydroxymethyl-pyrrolidin-1-yl)-N-[4-(4-methylamino-3-nitro-phenoxy)-pyridin-2-yl]-acetamide was hydrogenated in methanol in the presence of Pd/C for 4 hours. The catalyst was removed via filtration through Celite and filtrate was concentrated to give N-[4-(3-Amino-4-methylamino-phenoxy)-pyridin-2-yl]-2-(2-hydroxymethyl-pyrrolidin-1-yl)-acetamide. MS: MH+=372.4.

reactant | 2-(2-Hydroxymethyl-pyrrolidin-1-yl)-N-[4-(4-methylamino-3-nitro-phenoxy)-pyridin-2-yl]-acetamide | OCC1N(CCC1)CC(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C19H23N5O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-[4-(3-Amino-4-methylamino-phenoxy)-pyridin-2-yl]-2-(2-hydroxymethyl-pyrrolidin-1-yl)-acetamide | NC=1C=C(OC2=CC(=NC=C2)NC(CN2C(CCC2)CO)=O)C=CC1NC | C19H25N5O3
